US08084483B2
2-(2-(5-Bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetamido)-3-phenylpropanoic Acid
Aqueous lithium hydroxide solution (1M, 0.8 mL, 0.8 mmol) is added to a solution of methyl 2-(2-(5-bromo-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazol-3-ylthio)acetamido)-3-phenylpropanoate (0.4 mmol) in 3:1, THF/H2O (1.6 mL) and the mixture stirred for 18 h at room temperature. The crude reaction mixture is concentrated and acidified with aqueous HCL (1M, 1.2 mL) and then is extracted with ethyl acetate (3×3 mL). The combined organic extracts are dried (sodium sulfate), filtered and concentrated to provide the desired product.

reactant | lithium hydroxide | 0.8 mmol, 1M, 0.8 mL | [OH-].[Li+]
reactant | methyl 2-(2-(5-bromo-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazol-3-ylthio)acetamido)-3-phenylpropanoate | 0.4 mmol | BrC=1N(C(=NN1)SCC(=O)NC(C(=O)OC)CC1=CC=CC=C1)C1=CC=C(C2=CC=CC=C12)C1CC1 | C27H25BrN4O3S
solvent | THF H2O | 1.6 mL | C1CCOC1.O
product | 2-(2-(5-Bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetamido)-3-phenylpropanoic Acid | BrC=1N(C(=NN1)SCC(=O)NC(C(=O)O)CC1=CC=CC=C1)C1=CC=C(C2=CC=CC=C12)C1CC1 | C26H23BrN4O3S
